* Can a 1.8 V gate drive the MDAC digit/sign switches?
*
* This decides the digital domain, which is a 7-10 kum2 question: with
* 3.3 V gates the config chain must be hvl cells (11.7 kum2) or hd cells
* plus 117 level shifters at 97.3 um2 each.  With 1.8 V gates the chain
* is plain hd cells (4.7 kum2) and ~4 shifters for the scan inputs.
*
* The switch is a DC-programmed NMOS pass device (W=4 L=0.5 g5v0) between
* the cascode output and the summing node.  Its source rides the LOWER of
* the two nodes, so Vgs = Vgate - V(dest).  The question is the maximum
* destination voltage at which the leg still delivers its full current.
*
* Replicates one digit leg exactly as in mdac_weight.inc: cascoded
* reference diode -> gate line -> source device -> cascode -> switch.
.lib /Users/cteusche/.ciel/sky130A/libs.tech/ngspice/sky130.lib.spice tt

VDD vdd 0 3.3
VCASC vcasc 0 0.85

* reference: cascoded PMOS diode producing vg at iu (mdac_div XPD/XPCC)
XPD vg vg vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=8 L=2
XPCC nsk vcasc vg vdd sky130_fd_pr__pfet_g5v0d10v5 W=8 L=1
ISNK nsk 0 0.5u

* one thermometer leg: source + cascode + switch
XL s0 vg vdd vdd sky130_fd_pr__pfet_g5v0d10v5 W=8 L=2
XK n0 vcasc s0 vdd sky130_fd_pr__pfet_g5v0d10v5 W=8 L=1
XS nout tg n0 0 sky130_fd_pr__nfet_g5v0d10v5 W=4 L=0.5
VG tg 0 3.3
VOUT nout 0 0.5

* side question: where do the currents LAND?  iout_n drives the W=8 L=2
* mirror diode (nmir) -- its Vgs is the destination voltage on that path.
IMD vdd nmd 0.5u
XMD nmd nmd 0 0 sky130_fd_pr__nfet_g5v0d10v5 W=8 L=2

.control
set filetype=ascii
foreach g 3.3 1.8
  alter VG $g
  foreach i 0.5u 3.4u
    alter ISNK $i
    alter IMD $i
    dc VOUT 0.05 1.9 0.025
    wrdata swgate_{$g}_{$i}.csv i(VOUT) v(nmd)
  end
end
echo SWGATE_DONE
.endc
.end
